US05364871
Phosphorus oxychloride (86.9 ml) was dropwise added to a mixture of 6-acetoxymethyl-2-pyridinecarboxamide (93.0 g) and N,N-dimethylformamide (74.2 ml) in ethyl acetate (930 ml) under ice-cooling with stirring and the mixture was stirred at ambient temperature for 4 hours. The reaction mixture was added to a water and adjusted to pH 8 with potassium carbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated to give 6-acetoxymethyl-2-cyanopyridine (84.0 g) as an oil.

reactant | Phosphorus oxychloride | 86.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-acetoxymethyl-2-pyridinecarboxamide | 93.0 g | C(C)(=O)OCC1=CC=CC(=N1)C(=O)N | C9H10N2O3
reactant | N,N-dimethylformamide | 74.2 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 930 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-acetoxymethyl-2-cyanopyridine | 84.0 g | C(C)(=O)OCC1=CC=CC(=N1)C#N | C9H8N2O2
